US04518597
8-[4-(3,4-Dimethoxy-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one
Prepared analogously to Example 2 from 8-[4-(3,4-dimethoxy-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one and hydrogen peroxide.

reactant | 8-[4-(3,4-dimethoxy-phenylmercapto)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | COC=1C=C(C=CC1OC)SCCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C22H27NO5S
reactant | hydrogen peroxide | OO | H2O2
product | 8-[4-(3,4-Dimethoxy-phenylsulfinyl)-butoxy]-4,4-dimethyl-4H-3,1-benzoxazin-2-one | COC=1C=C(C=CC1OC)S(=O)CCCCOC1=CC=CC=2C(OC(NC21)=O)(C)C | C22H27NO6S
